### PR TITLE
Extend generic monoidal constructions and reasoning

### PR DESCRIPTION
**Pull request by LionOfJewdah**
## Summary

Extend the generic monoidal infrastructure used by rigid and traced category
developments.

This adds:

- reusable long-composite and three-factor tensor reasoning laws
- a dedicated `Monoidal.CupCap` module for cup/cap opening, closing, bending,
  nesting, naturality, and reassociation
- reverse monoidal, braided, and symmetric constructions
- supporting braided, symmetric, scalar, and traced properties

## Motivation

The dual calculus in #538 needs several constructions that depend only on the
underlying monoidal structure. Keeping them in a prerequisite PR makes those
lemmas independently reusable and leaves the rigid-category PR focused on its
mathematical subject.

In particular, `Monoidal.CupCap` separates cup/cap-specific calculations from
the structural associator, unitor, whiskering, and pentagon laws in
`Monoidal.Reassociation`. The new reasoning combinators provide concise names
for recurring reassociation and tensor-splitting steps, while the reverse and
braiding constructions support dualization into the reversed opposite
category.

### CODE REVIEW

File: src/Categories/Category/Monoidal/Braided/Properties.agda [hunk 1]
```diff
@@ -92,6 +103,27 @@ private
...
+  λ⇒-α⇐ = switch-fromtoʳ associator triangle
+
+  braiding-coherence⊗unit′ : [ unit ⊗₀ (unit ⊗₀ X) ⇒ unit ⊗₀ X ]⟨
+                               id ⊗₁ σ⇒            ⇒⟨ unit ⊗₀ (X ⊗₀ unit) ⟩
+                               id ⊗₁ ρ⇒
+                             ≈ id ⊗₁ λ⇒
+                             ⟩
+  braiding-coherence⊗unit′ = cancel-fromˡ braiding.FX≅GX (begin
+    σ⇒ ∘ id ⊗₁ ρ⇒ ∘ id ⊗₁ σ⇒         ≈⟨ pullˡ (⟺ (glue◽◃ unitorʳ-commute-from (⟺ ρ⇒-α⇐))) ⟩
+    (ρ⇒ ∘ σ⇒ ⊗₁ id ∘ α⇐) ∘ id ⊗₁ σ⇒  ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Braided/Properties.agda]: this is a `pullʳ`

File: src/Categories/Category/Monoidal/Braided/Properties.agda [hunk 2]
```diff
@@ -187,3 +247,29 @@ assoc-reverse = begin
...
     hex₁' = conjugate-from associator (idᵢ ⊗ᵢ σ) (⟺ (hexagon₁ ○ sym-assoc))
+
+-- Scalars are central: the left and right actions of a scalar on any morphism agree in a
+-- braided monoidal category. Conjugating |f ⊗₁ s| by the braiding swaps the two tensor factors,
+-- and |braiding-coherence| identifies the two unitor sandwiches |ρ …| and |λ …|.
+
+scalar-central : {f : X ⇒ Y} {s : Scalar} → f ·ʳ s ≈ s ·ˡ f
+scalar-central {f = f} {s = s} = begin
+  ρ⇒ ∘ (f ⊗₁ s) ∘ ρ⇐                ≈˘⟨ braiding-coherence ⟩∘⟨ refl⟩∘⟨ braiding-coherence-inv ⟩
+  (λ⇒ ∘ σ⇒) ∘ (f ⊗₁ s) ∘ (σ⇐ ∘ λ⇐)  ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Braided/Properties.agda]: also a `pullʳ`

File: src/Categories/Category/Monoidal/Traced/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,133 @@
...
+--   * the trace transports to the opposite monoidal category.
+
+open import Categories.Category.Core using (Category)
+open import Categories.Category.Monoidal.Core using (Monoidal)
+open import Categories.Category.Monoidal.Traced using (Traced)
+
+module Categories.Category.Monoidal.Traced.Properties
+    {o ℓ e} {C : Category o ℓ e} {M : Monoidal C} (T : Traced M) where
+
+open Category C
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Traced/Properties.agda:17]: I still want you to add lots of `using` to restrict the opens to what is actually needed.

File: src/Categories/Category/Monoidal/Traced/Properties.agda [hunk 4]
```diff
@@ -0,0 +1,133 @@
...
+    f : A ⇒ B
+    ff : A ⊗₀ X ⇒ B ⊗₀ X
+
+------------------------------------------------------------------------------
+-- Scalar actions and the trace.
+
+private
+  -- The left action is post-composition by the endomorphism `s ·ˡ id`: it is a
+  -- monoid action, so it splits `s ·ˡ f` as `(s ·ₛ idₛ) ·ˡ (id ∘ f)`.
+  ·ˡ-natural : s ·ˡ f ≈ (s ·ˡ id) ∘ f
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Traced/Properties.agda:48]: make these all also abstract?

File: src/Categories/Category/Monoidal/Traced/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,133 @@
...
+  α-conjugate : {g : A ⇒ B} → α⇐ ∘ (g ⊗₁ id {X ⊗₀ Y}) ∘ α⇒ ≈ (g ⊗₁ id) ⊗₁ id
+  α-conjugate = pullˡ α⇐-⊗id-commute ○ cancelʳ associator.isoˡ
+
+  -- The left action on `id` over a tensor only touches the left factor: split
+  -- both unitors off the associator, conjugate the scalar's whisker down onto
+  -- the left factor, then merge the whiskers back together.
+  ·ˡ-id⊗ : s ·ˡ id {A ⊗₀ X} ≈ (s ·ˡ id) ⊗₁ id
+  ·ˡ-id⊗ {s = s} = begin
+    λ⇒ ∘ (s ⊗₁ id) ∘ λ⇐                              ≈˘⟨ λ⇒-assoc ⟩∘⟨ refl⟩∘⟨ λ⇐-assoc ⟩
+    ((λ⇒ ⊗₁ id) ∘ α⇐) ∘ (s ⊗₁ id) ∘ α⇒ ∘ (λ⇐ ⊗₁ id)  ≈⟨ assoc ○ (refl⟩∘⟨ assoc²εβ) ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/Traced/Properties.agda]: This is indeed a 1-line, via `pullʳ` !

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 6]
```diff
@@ -0,0 +1,263 @@
...
+-- A cap is a morphism `Z ⇒ unit`, drawn as consuming `Z`.
+
+-- In the delooping view (https://ncatlab.org/nlab/show/delooping+hypothesis),
+-- which views a monoidal category as a bicategory on one object, caps and cups are
+-- 2-cells that create or consume the 1-cell `Z` from the "identity" 1-cell `unit`.
+
+module Categories.Category.Monoidal.CupCap
+  {o ℓ e} {𝒞 : Category o ℓ e} (M : Monoidal 𝒞) where
+
+open Category 𝒞
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda:17]: `using`

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 7]
```diff
@@ -0,0 +1,263 @@
...
+  α⇒ ∘ (id ⊗₁ cup) ∘ ρ⇐             ≈˘⟨ refl⟩∘⟨ (⊗.identity ⟩⊗⟨refl) ⟩∘⟨refl ⟩
+  α⇒ ∘ ((id ⊗₁ id) ⊗₁ cup) ∘ ρ⇐     ≈⟨ extendʳ assoc-commute-from ⟩
+  (id ⊗₁ (id ⊗₁ cup)) ∘ α⇒ ∘ ρ⇐     ≈˘⟨ refl⟩∘⟨ ρ⇐-assoc ⟩
+  (id ⊗₁ (id ⊗₁ cup)) ∘ (id ⊗₁ ρ⇐)  ≈⟨ merge₂ˡ ⟩
+  id ⊗₁ cup-openʳ cup               ∎
+
+cap-closeʳ-natural : {cap : Z ⇒ unit} →
+  cap-closeʳ {A = A ⊗₀ B} cap ∘ α⇐ {A} {B} {Z} ≈ id ⊗₁ cap-closeʳ cap
+cap-closeʳ-natural {cap = cap} = begin
+  cap-closeʳ cap ∘ α⇐               ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda]: `pullʳ` !

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 8]
```diff
@@ -0,0 +1,263 @@
...
+  id ⊗₁ cup-openˡ cup                      ∎
+
+-- Two cups planted side by side commute: the one already in place can be
+-- pushed under the one being planted, which then opens on its own unit.
+parallel-cups-commute : {cup : unit ⇒ X ⊗₀ Z} {cup′ : unit ⇒ A ⊗₀ W} →
+  (id ⊗₁ cup-openʳ cup′) ∘ cup ≈ α⇒ ∘ (cup ⊗₁ id) ∘ λ⇐ ∘ cup′
+parallel-cups-commute {cup = cup} {cup′} = begin
+  (id ⊗₁ cup-openʳ cup′) ∘ cup            ≈˘⟨ cup-openʳ-natural ⟩∘⟨refl ⟩
+  (α⇒ ∘ (id ⊗₁ cup′) ∘ ρ⇐) ∘ cup          ≈⟨ assoc²βε ⟩
+  α⇒ ∘ (id ⊗₁ cup′) ∘ ρ⇐ ∘ cup            ≈⟨ refl⟩∘⟨ refl⟩∘⟨ unitorʳ-commute-to ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda]: make a lemma (in a `where` clause) for the rest of the reasoning, so you don't have to put `refl⟩∘⟨ ` everywhere.

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 9]
```diff
@@ -0,0 +1,263 @@
...
+  α⇒ ∘ (id ⊗₁ cup′) ∘ (cup ⊗₁ id) ∘ ρ⇐    ≈⟨ refl⟩∘⟨ pullˡ (⟺ whisker-comm) ⟩
+  α⇒ ∘ ((cup ⊗₁ id) ∘ (id ⊗₁ cup′)) ∘ ρ⇐  ≈⟨ refl⟩∘⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda]: there's a hidden `pull^r` here

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 10]
```diff
@@ -0,0 +1,263 @@
...
+cup-bendˡ-assoc : (cup : unit ⇒ X ⊗₀ Y) →
+  (id ⊗₁ α⇒) ∘ α⇒ ∘ (cup-bendˡ {A = A} cup ⊗₁ id {B})
+  ≈ cup-bendˡ cup
+cup-bendˡ-assoc cup = begin
+  (id ⊗₁ α⇒) ∘ α⇒ ∘ (cup-bendˡ cup ⊗₁ id)                ≈⟨ refl⟩∘⟨ refl⟩∘⟨ split₁³ ⟩
+  (id ⊗₁ α⇒) ∘ α⇒ ∘ (α⇒ ⊗₁ id) ∘ ((cup ⊗₁ id) ⊗₁ id)
+    ∘ (λ⇐ ⊗₁ id)                                         ≈˘⟨ assoc²βε ⟩
+  ((id ⊗₁ α⇒) ∘ α⇒ ∘ (α⇒ ⊗₁ id)) ∘ ((cup ⊗₁ id) ⊗₁ id)
+    ∘ (λ⇐ ⊗₁ id)                                         ≈⟨ pentagon ⟩∘⟨refl ⟩
+  (α⇒ ∘ α⇒) ∘ ((cup ⊗₁ id) ⊗₁ id) ∘ (λ⇐ ⊗₁ id)           ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda]: another pull^r

File: src/Categories/Category/Monoidal/CupCap.agda [hunk 11]
```diff
@@ -0,0 +1,263 @@
...
+  ((ρ⇒ ∘ (id ⊗₁ cap) ∘ α⇒) ⊗₁ id) ∘ α⇐                     ≈˘⟨ (assoc ⟩⊗⟨refl) ⟩∘⟨refl ⟩
+  ((cap-closeʳ cap ∘ α⇒) ⊗₁ id) ∘ α⇐                       ∎
+
+-- Pentagon slide: given a unit-map `u` and a map `f` whose target splits as
+-- `X ⊗₀ Y`, pull the "cup" built by `u` then `f` leftward through the associators.
+cup-slideˡ : {u : unit ⇒ A ⊗₀ B} {f : B ⇒ X ⊗₀ Y} →
+  unit-conjˡ ((α⇐ ⊗₁ id {E}) ∘ ((id ⊗₁ f) ⊗₁ id) ∘ (u ⊗₁ id))
+  ≈ ((α⇐ ∘ (id ⊗₁ (α⇒ ∘ (f ⊗₁ id)))) ∘ (α⇒ ∘ (u ⊗₁ id))) ∘ λ⇐
+cup-slideˡ {A = A} {E = E} {u = u} {f = f} = begin
+  α⇒ ∘ ((α⇐ ⊗₁ id) ∘ ((id ⊗₁ f) ⊗₁ id) ∘ (u ⊗₁ id)) ∘ λ⇐      ≈⟨ sym-assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Category/Monoidal/CupCap.agda]: pull^l slide

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Again, various nits.

File: src/Categories/Category/Monoidal/Traced/Properties.agda (hunk 3 above)
Comment (LionOfJewdah) [reply src/Categories/Category/Monoidal/Traced/Properties.agda:17]: Still working on this one but I think this PR is in a lot better shape now.

I expanded CapCup a bit (mostly symmetry for right/left handedness and cap<->cup stuff I didn't have balanced) but it will be used in child branches

Comment (JacquesCarette) [reply src/Categories/Category/Monoidal/Traced/Properties.agda:17]: It's close enough now.

**Review by JacquesCarette — APPROVED** [review]
